US05324728
N-[2-(4-benzhydrylpiperazino)ethyl]-3-hydroxy-5-(3-pyridylmethoxy)-2-naphthamide
19.1 g (40.0 mM) of dicyclohexylamine salt of 3-hydroxy 5-(3-pyridylmethoxy)-2-naphtoic acid was dissolved in 11.2 ml (80.0 mM) of triethylamine and 500 ml of anhydrous methylene chloride. Thereto was dropwise added, at -20° C., a solution of 9.6 ml (80.0 mM) of pivaloyl chloride in 10 ml of anhydrous methylene chloride. The resulting mixture was stirred for 2 hours. Thereto was dropwise added a solution of 17.4 g (56.0 mM) of 2-(4-benzhydrylpiperazino)ethaneamine in 20 ml of anhydrous methylene chloride. The mixture was stirred for 2 hours. The reaction mixture was washed with water and then with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The residue was dissolved in 600 ml of methanol. Thereto was added 160 ml of an aqueous solution containing 16.56 g (120.0 mM) of potassium carbonate. Stirring was conducted at room temperature for 1 hour. The solvent was removed by distillation under reduced pressure. The residue was dissolved in 1000 ml of ethyl acetate. The solution was washed with water, a saturated aqueous ammonium chloride solution and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by silica gel chromatography to obtain 18.3 g of the title compound at a yield of 78%. The properties of the compound are shown in Table 7.

reactant | dicyclohexylamine | 40.0 mM, 19.1 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 3-hydroxy 5-(3-pyridylmethoxy)-2-naphtoic acid | OC=1C(=CC2=CC=CC(=C2C1)OCC=1C=NC=CC1)C(=O)O | C17H13NO4
reactant | pivaloyl chloride | 80.0 mM, 9.6 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-(4-benzhydrylpiperazino)ethaneamine | 56.0 mM, 17.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCN | C19H25N3
solvent | triethylamine | 80.0 mM, 11.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(4-benzhydrylpiperazino)ethyl]-3-hydroxy-5-(3-pyridylmethoxy)-2-naphthamide | 18.3 g, yield of 78% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCNC(=O)C1=CC2=CC=CC(=C2C=C1O)OCC=1C=NC=CC1 | C36H36N4O3
